* source FLYBACK
R_R15         N29813 N27600  100k TC=0,0 
D_D1         N27750 N27760 SBR1U400P1 
R_R2         N27898 N27746  0.013 TC=0,0 
C_C1         0 N27884  1u  TC=0,0 
X_U3         0 N27600 N30377 N28334 0 N28376 N28280 0 N29813 N29363 N30195
+  N30014 N27600 LM5155-Q1_TRANS PARAMS: SS=0 FAST_HICCUP=1 LM51551=0
R_R3         N27904 N27750  0.818 TC=0,0 
Kn_K1         L_L1 L_L2     1
R_R14         N29363 0  87k TC=0,0 
V_V2         N27600 0  
+PWL 0 0 200u 5 
C_C9         0 N27600  1u  TC=0,0 
R_R13         N27884 N27760  10m TC=0,0 
L_L1         N27898 N28164  2.34u  
C_C11         N30373 0  1.6n  TC=0,0 
R_R7         N28334 0  2m TC=0,0 
R_R16         N27600 N30014  100k TC=0,0 
R_R18         N30377 N30373  10k TC=0,0 
R_R5         N28286 N28280  1 TC=0,0 
L_L2         0 N27904  150u  
C_C10         N30195 0  30n  TC=0,0 
R_R17         N30014 0  100k TC=0,0 
R_R10         0 N28376  5.6k TC=0,0 
R_R9         N28376 N27760  1Meg TC=0,0 
D_D2         N28164 N34782 BAS70 
R_R19         N34782 N27600  3.8k TC=0,0 
C_C12         N34782 N27600  5n  TC=0,0 
L_L3         N27600 N27746  47e-9  
I_I2         N27760 0 DC 0Adc AC 0Aac
+PULSE 0 20e-3 4m 1u 1u 1 1
X_U4         N28164 N28286 N28334 PSMN014-80YL
